US04452788
A mixture of 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid, (7.0 g, 0.019 moles) and N,N-dimethylformamide (125 ml) is cooled to 0°, and treated with thionyl chloride (4.6 g, 0.038 moles). When the addition is complete, the reaction mixture is permitted to warm to ambient temperature, and stirred vigorously for one hour. The resulting slurry is cooled to 0°, and treated with unsym dimethylethylenediamine (8.8 g, 0.10 mole) and allowed to warm to ambient temperature. The reaction mixture is concentrated on a rotary evaporator, the residue is taken up in cool water and filtered. The solid thus obtained is recrystallized from ethanol and dried at 78° in a drying pistol to give 5.87 grams of 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)-N-[2-(dimethylamino)ethyl]benzene-sulfonamide, mp 264°-265° C.(d).

reactant | 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid | 0.019 moles, 7.0 g | C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)O)CC)=O | C15H16N4O5S
reactant | thionyl chloride | 0.038 moles, 4.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | unsym dimethylethylenediamine | 0.10 mole, 8.8 g | CN(C)CCN | C4H12N2
solvent | N,N-dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)-N-[2-(dimethylamino)ethyl]benzene-sulfonamide | 5.87 grams | C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)NCCN(C)C)CC)=O | C19H26N6O4S
